US06586475B1
Benzyl 4-(2-((2-(dimethylamino)ethyl)(methyl)amino)-2-oxoethyl)phenylcarbamate
To a solution of (4-(((benzyloxy)carbonyl)amino)-phenyl)acetic acid (6 g) in THF (100 ml) were added WSC (4 G), HOBt (3 g), and N,N,N-trimethylethylenediamine (2.1 g) sequentially. Triethylamine (3 ml) was added to the reaction mixture. After stirring at room temperature overnight, the reaction mixture was extracted with ethyl acetate. The organic layer was washed with water, dried, and concentrated. The residue was recrystallized from IPE/ethyl acetate to obtain the titled compound (7 g).

reactant | (4-(((benzyloxy)carbonyl)amino)-phenyl)acetic acid | 6 g | C(C1=CC=CC=C1)OC(=O)NC1=CC=C(C=C1)CC(=O)O | C16H15NO4
reactant | WSC | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 3 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N,N,N-trimethylethylenediamine | 2.1 g | CNCCN(C)C | C5H14N2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | Triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
product | Benzyl 4-(2-((2-(dimethylamino)ethyl)(methyl)amino)-2-oxoethyl)phenylcarbamate | 7 g | CN(CCN(C(CC1=CC=C(C=C1)NC(OCC1=CC=CC=C1)=O)=O)C)C | C21H27N3O3
